US06436972B1
The 5-bromomethyl-2-pyridone was taken up in diethyl amine and the solution refluxed for 1 hour. The solution was then treated with 10% sodium hydroxide at 0° C. and washed with chloroform. The aqueous phase was treated with hydrochloric acid to a pH of 6.0 and extracted with chloroform/methanol (5:1). The solution was dried over Na2SO4 and the solvent was then evaporated. The product, (N,N-diethylaminomethyl)-2-pyridone, was obtained in 34% yield. HRMS: m/e, M+ found; 180.1251, 20.8%. Calc. for C10H16N2O; 180.1263, −6.3 ppm. 1H NMR (ppm): 13.1 (broad, 1H, NH), 7.49 (dd, J3-4=9.2 Hz, J4-6=2.4 Hz, 1H, C(4)H), 7.25 (d, J4-6=2.4 Hz, 1H, C(6)H), 6.55 (d, J3-4=9.2 Hz, 1H, C(3)H), 3.30 (s, 2H, CH2O), 2.45 (q, J=7.1 Hz, 4H, N(CH2CH3)2), 1.00 (t, J=7.1 Hz, 6H, N(CH2CH3)2). IR (cm−1) : 1660(vs), ν(C═O).

reactant | 5-bromomethyl-2-pyridone | BrCC=1C=CC(NC1)=O | C6H6BrNO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | diethyl amine | C(C)NCC | C4H11N
product | (N,N-diethylaminomethyl)-2-pyridone | 34% yield | C(C)N(CC)CC=1C(NC=CC1)=O | C10H16N2O
